US06384065B1
In 15 ml of ethanol was dissolved ethyl (E)-5-methyl-2-hexenoate, to which was added 0.50 g of 5% palladium-carbon. Under a stream of hydrogen, the mixture was stirred at ambient temperature for 2 hours. The reaction mixture was filtered with Celite, and the solvent was distilled off under reduced pressure. Thus, 2.2 g of ethyl 5-methylhexanoate was obtained as a colorless oily product.

reactant | hydrogen | [H][H] | H2
reactant | ethyl (E)-5-methyl-2-hexenoate | CC(C/C=C/C(=O)OCC)C | C9H16O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.50 g | [C].[Pd]
product | ethyl 5-methylhexanoate | 2.2 g | CC(CCCC(=O)OCC)C | C9H18O2
